US06133303
7-[2-(1H-1-Imidazolyl)ethoxy]-2-phenyl-4-chromanone
A solution of 5.0 g (20.8 mmol) of 7-hydroxy-2-phenyl-4-chromanone in 200 mL of THF was treated with 6.22 g (23.7 mmol) of triphenylphosphine and 2.65 g (23.7 mmol) of 2-(1H-1-imidazolyl)-1-ethanol. A solution of 4.13 g (23.7 mmol) of diethyl azodicarboxylate in 25 mL of THF was added dropwise and the solution allowed to stir at room temperature overnight. The solvent was removed under pressure, and the residue taken up in 1N citric acid and washed three times with Et2O. The aqueous phase was adjusted to pH 7 with 50% NaOH and extracted with EtOAc. The EtOAc was washed with saturated NaCl and dried over MgSO4. Treatment with charcoal and removal of the solvent under pressure gave 3.0 g (43% yield) of the product as a white solid, mp 139-140° C. The structure was confirmed by NMR and mass spectroscopy. MS m/z 335 (M+H+).

reactant | 7-hydroxy-2-phenyl-4-chromanone | 20.8 mmol, 5.0 g | OC1=CC=C2C(CC(OC2=C1)C1=CC=CC=C1)=O | C15H12O3
reactant | triphenylphosphine | 23.7 mmol, 6.22 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(1H-1-imidazolyl)-1-ethanol | 23.7 mmol, 2.65 g | N1(C=NC=C1)CCO | C5H8N2O
reactant | diethyl azodicarboxylate | 23.7 mmol, 4.13 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 7-[2-(1H-1-Imidazolyl)ethoxy]-2-phenyl-4-chromanone | 3.0 g, 43% yield | N1(C=NC=C1)CCOC1=CC=C2C(CC(OC2=C1)C1=CC=CC=C1)=O | C20H18N2O3
